US06048885
2-(1-Ethoxyethyl)oxymethylphenyl 5-methylisoxazol-3-yl ketone (4.34 g, 0.015 mol) was added to a mixture of methanol (30 ml), methoxyamine hydrochloride (2.51 g, 0.03 mol) and 28% sodium methylate/methanol solution (7.23 g, 0.0375 mol), and the mixture was stirred under reflux for 3 hours. After completion of the reaction, half-saturated brine (200 ml) was added, and the mixture was extracted with dichloromethane (100 ml) twice. The extracts were dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give 2-(1-ethoxyethyl)oxymethylphenyl 5-methylisoxazol-3-yl ketone O-methyloxime (4.32 g, yield: 90.5%) as a colorless oil.

reactant | 2-(1-Ethoxyethyl)oxymethylphenyl 5-methylisoxazol-3-yl ketone | 0.015 mol, 4.34 g | CC1=CC(=NO1)C(=O)C1=C(C=CC=C1)COC(C)OCC | C16H19NO4
reactant | methanol | 30 ml | CO | CH4O
reactant | methoxyamine hydrochloride | 0.03 mol, 2.51 g | Cl.CON
reactant | sodium methylate methanol | 0.0375 mol, 7.23 g | C[O-].[Na+].CO
solvent | brine | 200 ml | [Cl-].[Na+].O
product | 2-(1-ethoxyethyl)oxymethylphenyl 5-methylisoxazol-3-yl ketone O-methyloxime | 4.32 g, yield: 90.5% | CON=C(C1=C(C=CC=C1)COC(C)OCC)C1=NOC(=C1)C | C17H22N2O4
